* geda-gaf/gnetlist/src/.libs/lt-gnetlist -g spice-anise cascade.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-anise version 2015.08.08                        *
*********************************************************
*============== Begin SPICE netlist of main design ============
AMP2 6 unconnected_pin-1 cascade-amp
T1 5 6 <No valid value attribute found>
MX1 4 5 unknown 
FL1 3 4 <No valid value attribute found>
DEF1 2 3 unknown 
AMP1 1 2 cascade-amp
SOURCE 1 <No valid value attribute found>
DEFAULTS unknown 
.end
